* Fixed-XMODEL-aligned op-amp abstraction.
* Source contract: commit 4756a5086023547328ef44fd5fd87da3c250dc39
* Aol=100 dB, CMRR=110 dB, Rout=1 ohm, rails supplied at +/-1.65 V.
* GBW_HZ=1e9 and VOS=0 reproduce ecg_afe_xmodel_op nominal settings.
* LTspiceXVII-compatible variant (identical math; outer-brace form rejected by XVII)
.subckt XOPAMP_XMODEL INP INN VCC VEE OUT params: AOL_DB=100 CMRR_DB=110 GBW_HZ=1e9 VOS=0
.param A_OL={10**(AOL_DB/20)} CMRR_LIN={10**(CMRR_DB/20)}
.param A_CM={A_OL/(2*CMRR_LIN)} FP={GBW_HZ/A_OL} RP=1k
BERR OSUM 0 V={A_OL}*(V(INP)-V(INN)+{VOS})+{A_CM}*(V(INP)+V(INN))
RPOLE OSUM OPOLE {RP}
CPOLE OPOLE 0 {1/(2*pi*FP*RP)}
BRAIL OINT 0 V=limit(V(OPOLE),V(VEE),V(VCC))
ROUT OINT OUT 1
.ends XOPAMP_XMODEL

